US08049014B2
Step (2): Preparation of 4-(8-nitroquinolin-4-yloxy)phenylamine (Compound of Formula 4)
4-Chloro-8-nitroquinoline (176 mg, 0.85 mmol) and 4-aminophenol (93 mg, 0.85 mmol) were dissolved in dimethylformamide, and to which 1.0 M potassium tert-butoxide (0.95 mL) in tetrahydrofuran was slowly added dropwise at room temperature, which was then heated and stirred at 110° C. for seven hours. When the reaction was completed, the resultant was extracted with ethyl acetate and aqueous sodium chloride, and the combined organic layers were dried with anhydrous sodium sulfate, and then filtered. The solvent was removed by vacuum distillation, and the residue was purified by a column chromatography (ethyl acetate/n-hexane=½) to obtain 140.6 mg of the desired compound as a reddish brown solid (yield 59.0%).

reactant | 4-Chloro-8-nitroquinoline | 0.85 mmol, 176 mg | ClC1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 4-aminophenol | 0.85 mmol, 93 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | potassium tert-butoxide | 1.0 M, 0.95 mL | CC(C)([O-])C.[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(8-nitroquinolin-4-yloxy)phenylamine | 140.6 mg, yield 59.0% | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)OC1=CC=C(C=C1)N | C15H11N3O3
